US09447090B2
To a solution of 2 g of ethylpyridin-3-yl acetate in 40 ml of DMF were added 1.09 g of paraformaldehyde and 165 mg of sodium ethoxide, followed by stirring for 19 hours. Acetic acid was added thereto under ice-cooling and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.29 g of ethyl 3-hydroxy-2-(hydroxymethyl)-2-(pyridin-3-yl)propanoate.

reactant | ethylpyridin-3-yl acetate | 2 g | C(C)(=O)OC=1C(=NC=CC1)CC | C9H11NO2
reactant | paraformaldehyde | 1.09 g | C=O | CH2O
reactant | sodium ethoxide | 165 mg | [O-]CC.[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
product | ethyl 3-hydroxy-2-(hydroxymethyl)-2-(pyridin-3-yl)propanoate | 1.29 g | OCC(C(=O)OCC)(C=1C=NC=CC1)CO | C11H15NO4
